US04876280
Ethyl trans-4-fluorocinnamate
9.6 g. of sodium hydride (50% in mineral oil, pentane washed) is added in small portions to a solution of 45 g. of triethyl phosphonoacetate in 400 ml. of dry tetrahydrofuran stirred at 0° C. under nitrogen. The reaction mixture is allowed to warm to room temperature, stirred at room temperature for 1 hour and cooled to 10° C., a solution of 24.8 g. of 4-fluorobenzaldehyde in 25 ml. of dry tetrahydrofuran is adde dropwise, and the reaction mixture is stirred at room temperature for 18 hours, the reaction mixture being maintained under nitrogen throughout. Water is added to the reaction mixture. The reaction mixture is extracted twice with diethyl ether, and the organic layers are combined, dried over anhydrous sodium sulfate and evaporated at reduced pressure to an oil. The oil is distilled at 15 mm. Hg. to obtain the product (28.3 g. (73%)), b.p. 142° C.

reactant | sodium hydride | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | Water | O | H2O
product | Ethyl trans-4-fluorocinnamate | FC1=CC=C(/C=C/C(=O)OCC)C=C1 | C11H11FO2
